US05250527
Preparation of 5 -Bromo-4 -amino-2 -chloromethylpyridine hydrochloride
5 -Bromo-4 -amino-2 -hydroxymethylpyridine (0.60 g, 0.003 M) in chloroform (15 ml) was cooled to -10 ° and thionyl chloride (0.64 ml, 1.05 g, 0.0089 M) in chloroform (5 ml) added dropwise over 20 minutes so that the temperature of the reaction mixture did not rise above -10°. The reaction mixture was stirred for 1 hour at -10 ° and then allowed to warm to room temperature and stirred for 21 hours (if the reaction is not complete at this stage, further portions of thionyl chloride can be added (at -10 °), followed by reflux if necessary).

reactant | 5 -Bromo-4 -amino-2 -hydroxymethylpyridine | 0.003 M, 0.60 g | BrC=1C(=CC(=NC1)CO)N | C6H7BrN2O
reactant | thionyl chloride | 0.0089 M, 0.64 ml, 1.05 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5 -Bromo-4 -amino-2 -chloromethylpyridine hydrochloride | Cl.BrC=1C(=CC(=NC1)CCl)N | InChI=1S/C6H6BrClN2.ClH/c7-5-3-10-4(2-8)1-6(5)9;/h1,3H,2H2,(H2,9,10);1H
